US04826862
To a stirred solution of 20 parts of 4-amino-α-(4-fluorophenyl)-3-nitrobenzenemethanol, 0.1 parts of a sodium hydride dispersion 50% and 135 parts of tetrahydrofuran were added 16 parts of 1,1'-carbonylbis[1H-imidazole]. The whole was stirred and refluxed for 2 hours. The solvent was removed. Water was added to the residue. The oily layer was separated, dissolved in dichloromethane, dried, filtered and evaporated. The residue was crystallized from a mixture of 65 parts of dichloromethane and 45 parts of benzene. The precipitate was filtered off and the filtrate was evaporated. The residue was purified by column chromatography over silica gel using a mixture of ethyl acetate and methanol (90:10 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from a mixture of 52 parts of dichloromethane and 54 parts of benzene. The product was filtered off and dried, yielding 5.1 parts (21.2%) of 4-[(4-fluorophenyl)(1H-imidazol-1-yl)methyl]-2-nitrobenzenamine; mp. 147,4° C. (int. 4).

reactant | 4-amino-α-(4-fluorophenyl)-3-nitrobenzenemethanol | NC1=C(C=C(C=C1)C(O)C1=CC=C(C=C1)F)[N+](=O)[O-] | C13H11FN2O3
reactant | sodium hydride | [H-].[Na+]
reactant | 1,1'-carbonylbis[1H-imidazole] | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-[(4-fluorophenyl)(1H-imidazol-1-yl)methyl]-2-nitrobenzenamine | 21.2% | FC1=CC=C(C=C1)C(C1=CC(=C(C=C1)N)[N+](=O)[O-])N1C=NC=C1 | C16H13FN4O2
